US08664401B2
Step A) (+/−)-2-Methyl-2-(methylsulfonyl)-4-[2-oxo-4-(4-pyridin-4-ylphenyl)pyridin-1(2H)-yl]-N-(tetrahydro-2H-pyran-2-yloxy)butanamide
(+/−)-4-(4-Iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide, which may be prepared as in Preparation 2A and 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyridine were converted to the title product following the general procedure outlined for (+/−)-4-[4-(1-benzofuran-2-yl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide in Example 33, Step A. The title compound was obtained as a white solid (161 mg, 61%) LC-MS m/z 526.7 (M+1).

reactant | (+/−)-4-(4-Iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | IC1=CC(N(C=C1)CCC(C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C16H23IN2O6S
reactant | 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyridine | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=CC=NC=C1)C | C17H20BNO2
product | (+/−)-2-Methyl-2-(methylsulfonyl)-4-[2-oxo-4-(4-pyridin-4-ylphenyl)pyridin-1(2H)-yl]-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | CC(C(=O)NOC1OCCCC1)(CCN1C(C=C(C=C1)C1=CC=C(C=C1)C1=CC=NC=C1)=O)S(=O)(=O)C | C27H31N3O6S
